US09353108B2
D) 5-Cyclopropyl-2-ethoxy-6-(4-fluorophenyl)nicotinaldehyde
A THF (20 mL) solution of ethyl 5-cyclopropyl-2-ethoxy-6-(4-fluorophenyl)nicotinate (2.06 g) was added to a THF (20 mL) suspension of lithium aluminum hydride (237 mg) under ice cooling in a nitrogen atmosphere. After stirring at the same temperature as above for 30 minutes, water (0.20 mL) and a 15% aqueous sodium hydroxide solution (0.20 mL) were added thereto, and the mixture was stirred for 5 minutes. Then, water (0.60 mL) was further added thereto. The reaction mixture was stirred for 1 hour and then filtered. The filtrate was concentrated under reduced pressure. Manganese dioxide (5.43 g) was added to a toluene (10 mL) solution of the obtained residue, and the mixture was stirred at 60° C. for 1 hour in a nitrogen atmosphere. The reaction mixture was filtered, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.47 g).

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | ethyl 5-cyclopropyl-2-ethoxy-6-(4-fluorophenyl)nicotinate | 2.06 g | C1(CC1)C=1C(=NC(=C(C(=O)OCC)C1)OCC)C1=CC=C(C=C1)F | C19H20FNO3
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 237 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.20 mL | [OH-].[Na+]
solvent | water | 0.60 mL | O | H2O
solvent | water | 0.20 mL | O | H2O
product | 5-Cyclopropyl-2-ethoxy-6-(4-fluorophenyl)nicotinaldehyde | 1.47 g | C1(CC1)C=1C(=NC(=C(C=O)C1)OCC)C1=CC=C(C=C1)F | C17H16FNO2
